US08003647B2
4-(6-Nitroindol-1-yl)benzoic acid ethyl ester
To a solution of 6-nitro-1H-indole (0.5 g) in N,N-dimethylformamide (10 mL) were added cesium carbonate (1.2 g) and 4-fluoro benzoic acid ethyl ester (0.62 g), and this mixture was stirred at 75° C. overnight. This reaction mixture was poured into water and the precipitated solid was collected by filtration, and washed with water and n-hexane, dried under reduced pressure to give the title compound (0.64 g).

reactant | 6-nitro-1H-indole | 0.5 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | cesium carbonate | 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluoro benzoic acid ethyl ester | 0.62 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(6-Nitroindol-1-yl)benzoic acid ethyl ester | 0.64 g | C(C)OC(C1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
